US08686046B2
4-hexylbenzaldehyde (9)
General procedure G was used to couple 8.1 mmols of 1-hexene to 5.4 mmols of 4-bromobenzaldehyde. 5.1 mmols of the title product was recovered after purification by flash chromatography. Spectral data was consistent with previously described compounds.

reactant | 1-hexene | 8.1 mmols | C=CCCCC | C6H12
reactant | 4-bromobenzaldehyde | 5.4 mmols | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 4-hexylbenzaldehyde | 5.1 mmols | C(CCCCC)C1=CC=C(C=O)C=C1 | C13H18O
